US05089504
D. preparation of 3-butyryl-8-vinyl-4(1H)-quinolone
Ethyl 2-butyryl-3-(2-(1-benzoyloxyethyl)phenylamino)-acrylate (70 g, 0.17 mol) was added dropwise to boiling diphenyl ether (700 ml) keeping the reaction temperature above 240° C. The mixture was heated under reflux for 1 hour then cooled rapidly. The mixture was chromatographed (silica gel, dichloromethane +methanol (2%-4%)) to afford the required compound as a light solid (23.2 g, 56%) m.p. 206° C.-8° C.

reactant | Ethyl 2-butyryl-3-(2-(1-benzoyloxyethyl)phenylamino)-acrylate | 0.17 mol, 70 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)C(C)OC(C1=CC=CC=C1)=O | C24H27NO5
solvent | diphenyl ether | 700 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-8-vinyl-4(1H)-quinolone | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)C=C | C15H15NO2
